US08017602B2
Step iv) N-Cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-(1-(2-methoxyethyl)-1H-pyrazol-4-yl)phenethoxy)propanamide
The subtitled compound (267 mg) was prepared from 3-(3-(1-(2-methoxyethyl)-1H-pyrazol-4-yl)phenethoxy)propanoic acid [Example 36 Step ii)] and N-(2,2-dimethoxyethyl)cyclohexanamine using a similar method to that described in Example 18, Step iii). MS [M+H-MeOH]+=456 (MultiMode+) 1H NMR (400 MHz, CD3OD) δ 7.95 (s, 1H), 7.81 and 7.80 (2×s, 1H), 7.40-7.37 (m, 1H), 7.35 (d, J=7.7 Hz, 1H), 7.23 and 7.22 (2×t, J=7.7 Hz, 1H), 7.05 (d, J=7.9 Hz, 1H), 4.52 and 4.36 (2×t, J=5.3 Hz, 1H), 4.30 (t, J=5.2 Hz, 2H), 4.04-3.95 and 3.69-3.60 (2×m, 1H), 3.77-3.63 (m, 6H), 3.34 (s, 3H), 3.32 (s, 3H), 3.31 (s, 3H), 3.34 and 3.25 (2×d, J=5.1 Hz, 2H), 2.87-2.81 (m, 2H), 2.67-2.60 (m, 2H), 1.93-0.99 (m, 10H); a ˜1:1 mixture of rotamers is observed.

reactant | 3-(3-(1-(2-methoxyethyl)-1H-pyrazol-4-yl)phenethoxy)propanoic acid | COCCN1N=CC(=C1)C=1C=C(CCOCCC(=O)O)C=CC1 | C17H22N2O4
reactant | N-(2,2-dimethoxyethyl)cyclohexanamine | COC(CNC1CCCCC1)OC | C10H21NO2
product | N-Cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-(1-(2-methoxyethyl)-1H-pyrazol-4-yl)phenethoxy)propanamide | 267 mg | C1(CCCCC1)N(C(CCOCCC1=CC(=CC=C1)C=1C=NN(C1)CCOC)=O)CC(OC)OC | C27H41N3O5
